US05849796
74.1 g of 2-methyl-4-bromo-5-chlorosulphonylbenzoic acid [obtainable by reacting 2-methyl-4-bromobenzoic acid with chlorosulphonic acid] are stirred, at 10° and over a period of 1.5 h, into 170 ml of a 32% aqueous solution of ammonia, and this mixture is subsequently stirred at room temperature for 3 h. After that, the reaction mixture is concentrated, 50 ml of water are added, and this mixture is acidified with conc. HCl. The resulting precipitate is filtered off with suction and recrystallized from methanol. 2-Methyl-4-bromo-5-aminosulphonylbenzoic acid is obtained, m.p. 237°.

reactant | 2-methyl-4-bromo-5-chlorosulphonylbenzoic acid | 74.1 g | CC1=C(C(=O)O)C=C(C(=C1)Br)S(=O)(=O)Cl | C8H6BrClO4S
reactant | ammonia | N | H3N
product | 2-Methyl-4-bromo-5-aminosulphonylbenzoic acid | CC1=C(C(=O)O)C=C(C(=C1)Br)S(=O)(=O)N | C8H8BrNO4S
